US07608445B1
Putative nitrilase up-mutants were assayed in triplicate. Each transformant was grown in 5 mL LB (100 μg/mL ampicillin), at 37° C., 220 rpm for 18 h. The overnight culture was diluted 2-fold and nitrilase expression induced at 37° C., 220 rpm with 0.1 mM IPTG for 6 h. Cells were harvested by centrifugation, washed in 100 mM pH 7 sodium phosphate buffer and then re-suspended in 1 mL of 100 mM HGN in 100 mM pH 7 sodium phosphate buffer. Reactions were allowed to proceed for at least 36 h at 22° C. with gentle agitation. Reaction progress was monitored by TLC (1:1 EtOAc:Hexanes, Rf=0.5, nitrile; Rf=0.0, acid). Cells and other debris were removed by centrifugation and the treated with one volume methanol prior to lyophilization. The lyophilizate was re-suspended in methanol and treated with TMS-diazomethane (10 equivalents, 2 M solution in hexanes) until gas evolution ceased and yellow color persisted in order to prepare the methyl ester for GC analysis. Selected nitrilase variants producing (R)-(−)-3-hydroxy-4-cyanobutyric acid of 95% ee or greater were then evaluated for performance at 2.25 M HGN.

reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | IPTG | 0.1 mM | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
reactant | TMS-diazomethane | 2 M, 10 equivalents | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-(−)-3-hydroxy-4-cyanobutyric acid | O[C@@H](CC(=O)O)CC#N | C5H7NO3
